US06046203
a. 3-Amino-6-(methoxymethoxy)-1,2-benzisoxazole
To a stirred solution of acetophydroxamic acid (3.88 g) in N,N-dimethylformamide (DMF) (120 ml) was added potassium tertiarybutoxide (tBuOK) (5.80 g) under N2. After one hour of stirring 2-fluoro-4-(methoxymethoxy)-benzonitrile (6.0 g) was added. Stirring continued for 16 hours. TLC (silica gel) in 10% acetone/CHCl3 showed the presence of starting material. An additional 1 equivalent of acetohydroxamic acid and tBuOK were added in DMF (120 ml). After one hour the reaction was diluted with EtOAc (2 l), filtered, washed filtrate with brine (4×11), dried (MgSO4), and concentrated in vacuo. Flash column chromatography (silica gel) was performed eluting with 2.5% acetone/CH2Cl2 solution affording 8.1 g of the product, m.p. 88-89° C.

reactant | potassium tertiarybutoxide | 5.80 g | CC(C)([O-])C.[K+]
reactant | 2-fluoro-4-(methoxymethoxy)-benzonitrile | 6.0 g | FC1=C(C#N)C=CC(=C1)OCOC | C9H8FNO2
reactant | acetohydroxamic acid | 1 equivalent | C(C)(=O)NO | C2H5NO2
reactant | tBuOK | C(C)(C)(C)O[K]
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | acetone CHCl3 | CC(=O)C.C(Cl)(Cl)Cl
solvent | DMF | 120 ml | CN(C=O)C | C3H7NO
solvent | EtOAc | 2 l | CCOC(=O)C | C4H8O2
product | 3-Amino-6-(methoxymethoxy)-1,2-benzisoxazole | 8.1 g | NC1=NOC2=C1C=CC(=C2)OCOC | C9H10N2O3
